US06977262B2
Isopropyl 4-(2-fluorophenyl)-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-fluorobenzaldehyde, 3-aminopyrazole and isopropyl acetoacetate in the same manner as in Example 1.

reactant | 2-fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | isopropyl acetoacetate | C(CC(=O)C)(=O)OC(C)C | C7H12O3
product | Isopropyl 4-(2-fluorophenyl)-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | FC1=C(C=CC=C1)C1C=2C(NC(=C1C(=O)OC(C)C)C)=NNC2 | C17H18FN3O2
